US05753664
6-Chloro-7-[4-(4-chlorobenzoyl)benzyl]-3,5-dimethyl-2-methylthio-7H-pyrrolo [2,3-d]pyrimidin-4(3H)-one
In anhydrous dichloromethane (3 ml) was dissolved 7-[4-(4-chlorobenzoyl)benzyl]-3,5-dimethyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one (88 mg) and, under ice-cooling and stirring, N-chlorosuccinimide (28 mg) was added. After 2 hours of stirring, the solvent was distilled off under reduced pressure and the residue was purified by flash column chromatography (silica gel; chloroform) to provide the title compound (55 mg).

reactant | 7-[4-(4-chlorobenzoyl)benzyl]-3,5-dimethyl-2-methylthio-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 88 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=C(C4=C3N=C(N(C4=O)C)SC)C)C=C2)C=C1 | C23H20ClN3O2S
reactant | N-chlorosuccinimide | 28 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 6-Chloro-7-[4-(4-chlorobenzoyl)benzyl]-3,5-dimethyl-2-methylthio-7H-pyrrolo [2,3-d]pyrimidin-4(3H)-one | 55 mg | ClC1=C(C2=C(N=C(N(C2=O)C)SC)N1CC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)C | C23H19Cl2N3O2S
